US07408188B2
Separately, diphenylphosphinoferroceneparadium dichloride (hereinafter referred to as “Pd(dppf)Cl2”) (1.7 g, 2.11 mmol, 0.01 eq) and 3-bromothiophene (41.0 g, 253 mmol, 1.2 eq) were placed in a three-necked flask, and the atmosphere in the flask was replaced by Ar. Dehydrated THF (200 ml) was added to the contents of the flask, and the mixture was cooled to 0° C. The Grignard reagent prepared above was added dropwise thereto, and the mixture was stirred for 30 min. The reaction solution was brought to room temperature and was stirred for 6 hr. A 1 N aqueous HCl solution (20 ml) was added thereto, and the mixture was stirred for 15 min. THF was removed by evaporation, and the residue was extracted with diethyl ether, followed by washing with water until pH=7. The extract was dehydrated over Na2SO4, and the solvent was removed by evaporation, and the residue was purified by chromatography on silica gel and was recrystallized from ethanol to give an objective substance 5′ dodecyl-3,2′-bithiophene as a light yellow solid (about 38.5 g, yield about 54%). An NMR spectrum of the compound thus obtained was measured at room temperature with an NMR spectrometer (model JNM-LA400W, manufactured by Japan Electric Optical Laboratory). 1H-NMR (d6-DMSO, TMS/ppm): 0.86 (t, 3H, J=6.83 Hz), 1.26 (m, 18H), 1.64 (m, 2H), 2.77 (t, 2H, J=7.32 Hz), 6.75 (d, 1H, J=3.42 Hz), 7.11 (d, 1H J=3.42 Hz), 7.32 (dd, 1H, J=0.97 Hz, J=5.12 Hz), 7.53 (m, 2H).

reactant | 3-bromothiophene | 253 mmol, 41.0 g, 1.2 eq | BrC1=CSC=C1 | C4H3BrS
reactant | HCl | 1 N, 20 ml | Cl | ClH
reactant | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5′ dodecyl-3,2′-bithiophene | about 38.5 g, yield about 54% | C(CCCCCCCCCCC)C1=CC=C(S1)C1=CSC=C1 | C20H30S2
